US05201932
3-Methyl-isothiazole-4-carboxylic cyclopropylamide
At -5° C., 3.7 g (65.0 mmol) of cyclopropylamine, 18.7 g (185.0 mmol) of methylmorpholine, 2.0 g (16.7 mmol) of dimethylaminopyridine and 43.5 g of a 50% strength solution of propanephosphonic anhydride in dichloromethane (=68.4 mol) were dripped one after the other into 7.2 g (50.0 mmol) of 3-methyl-isothiazole-4-carboxylic acid in 200 ml of dichloromethane, and the mixture was stirred for 12 hours at room temperature. The solvent was stripped off under reduced pressure, and the residue was taken up in 250 ml of ethyl acetate and extracted twice with saturated sodium bicarbonate solution and once with 5% strength citric acid solution, once with saturated sodium carbonate solution and once with saturated sodium chloride solution. The organic phase was dried over magnesium sulfate and the solvent was stripped off under reduced pressure. Yield: 84%; m.p.: 106°-108° C.

reactant | cyclopropylamine | 65.0 mmol, 3.7 g | C1(CC1)N | C3H7N
reactant | methylmorpholine | 185.0 mmol, 18.7 g | CN1CCOCC1 | C5H11NO
reactant | dimethylaminopyridine | 16.7 mmol, 2.0 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 3-methyl-isothiazole-4-carboxylic acid | 50.0 mmol, 7.2 g | CC1=NSC=C1C(=O)O | C5H5NO2S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 68.4 mol | ClCCl | CH2Cl2
product | 3-Methyl-isothiazole-4-carboxylic cyclopropylamide | Yield: 84% | C1(CC1)NC(=O)C=1C(=NSC1)C | C8H10N2OS
